US09303007B2
A solution of (S)-tert-butyl 2-(5-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalen-2-yl)-1H-imidazol-2-yl)pyrrolidine-1-carboxylate (402 mg, 0.821 mmol), (S)-tert-butyl 2-(7-bromo-4,5-dihydro-1H-naphtho[1,2-d]imidazol-2-yl)pyrrolidine-1-carboxylate (344 mg, 0.821 mmol) and sodium bicarbonate (207 mg, 2.46 mmol) in DME (14 mL) and water (1.8 mL) was degassed under vacuum for 10 min. The mixture was heated at 80° C. at which time the flask was opened and Pd(Ph3P)4 (76 mg, 0.066 mmol) was added. The flask was flushed with nitrogen, sealed and heated at 120° C. for 16 h. The flask was cooled to room temp., the DME was removed in vacuo and the crude material was partitioned between DCM and H2O. The layers were separated and the aqueous layer was extracted several times with DCM. The combined organic extracts were dried over Na2SO4 and evaporated in vacuo. The residue was purified by flash column chromatography (BIOTAGE®), eluting with a gradient of 20 to 100% EtOAc/Hexanes and then 0 to 10% methanol/DCM to afford (S)-tert-butyl 2-(7-(6-(2-((S)-1-(tert-butoxycarbonyl)pyrrolidin-2-yl)-1H-imidazol-5-yl)naphthalen-2-yl)-4,5-dihydro-1H-naphtho[1,2-d]imidazol-2-yl)pyrrolidine-1-carboxylate (183 mg). LC-MS retention time 1.543 min; m/z 701.47 (MH+). LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters Sunfire 5u C18 4.6×30 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 4 mL/min, a gradient of 100% Solvent A/0% Solvent B to 0% Solvent A/100% Solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where Solvent A was 10% MeOH/90% H2O/0.1% TFA and Solvent B was 10% H2O/90% MeOH/0.1% TFA. MS data was determined using a MICROMASS® Platform for LC in electrospray mode.

reactant | (S)-tert-butyl 2-(5-(6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)naphthalen-2-yl)-1H-imidazol-2-yl)pyrrolidine-1-carboxylate | 0.821 mmol, 402 mg | CC1(OB(OC1(C)C)C=1C=C2C=CC(=CC2=CC1)C1=CN=C(N1)[C@H]1N(CCC1)C(=O)OC(C)(C)C)C | C28H36BN3O4
reactant | (S)-tert-butyl 2-(7-bromo-4,5-dihydro-1H-naphtho[1,2-d]imidazol-2-yl)pyrrolidine-1-carboxylate | 0.821 mmol, 344 mg | BrC=1C=C2CCC3=C(NC(=N3)[C@H]3N(CCC3)C(=O)OC(C)(C)C)C2=CC1 | C20H24BrN3O2
reactant | sodium bicarbonate | 2.46 mmol, 207 mg | C([O-])(O)=O.[Na+]
solvent | DME | 14 mL | COCCOC | C4H10O2
solvent | water | 1.8 mL | O | H2O
catalyst | Pd(Ph3P)4 | 0.066 mmol, 76 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-tert-butyl 2-(7-(6-(2-((S)-1-(tert-butoxycarbonyl)pyrrolidin-2-yl)-1H-imidazol-5-yl)naphthalen-2-yl)-4,5-dihydro-1H-naphtho[1,2-d]imidazol-2-yl)pyrrolidine-1-carboxylate | 183 mg | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)C=1NC(=CN1)C=1C=C2C=CC(=CC2=CC1)C=1C=C2CCC3=C(NC(=N3)[C@H]3N(CCC3)C(=O)OC(C)(C)C)C2=CC1 | C42H48N6O4
